US05229382
3. 4-Amino-2-methyl-10H-thieno[2,3-b][1,5]benzodiazepine, hydrochloride
To a stirred slurry of 2-(2-nitroanilino)-5-methylthiophene-3-carbonitrile (3 g, 0.011 mol) in ethanol (35 mL) at 50° C. was added, over 10 minutes, a solution of anhydrous stannous chloride (6.95 g, 0.037 mol) in hydrochloric acid (26 mL, 5M). The mixture was stirred under reflux for 1 hour, concentrated under reduced pressure and allowed to crystallise over night at 5° C. The salt was filtered, washed with a small amount of water, dried (4.3 g) m.p. >250° C., and used without further purification in the next stage.

reactant | 2-(2-nitroanilino)-5-methylthiophene-3-carbonitrile | 0.011 mol, 3 g | [N+](=O)([O-])C1=C(NC=2SC(=CC2C#N)C)C=CC=C1 | C12H9N3O2S
reactant | hydrochloric acid | 5M, 26 mL | Cl | ClH
solvent | ethanol | 35 mL | C(C)O | C2H6O
product | 4-Amino-2-methyl-10H-thieno[2,3-b][1,5]benzodiazepine, hydrochloride | Cl.NC=1C2=C(NC3=C(N1)C=CC=C3)SC(=C2)C | InChI=1S/C12H11N3S.ClH/c1-7-6-8-11(13)14-9-4-2-3-5-10(9)15-12(8)16-7;/h2-6,15H,1H3,(H2,13,14);1H
